US03992408
A stirred solution of 8-chloro-1-(aminomethyl)-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine (1.42 g, 4.3 mmole) in 20 ml. of acetonitrile under nitrogen is treated successively with acetaldehyde (1.5 ml) and sodium cyanoborohydride (NaBH3CN) (550 mg). This mixture is treated dropwise, with a solution of 0.2 ml of acetic acid in 2 ml. of acetonitrile over a period of 1 hour and 30 minutes. [The addition is continued until the pH of the reaction mixture is between 6.4 - 6.8]. The mixture is stirred for 15 minutes at ambient temperature and concentrated in vacuo. The residue is treated with cold water saturated with sodium chloride and extracted with chloroform (5- ml., 3X). The chloroform solution is washed with water and saturated sodium chloride solution, then dried over anhydrous sodium sulfate, and concentrated in vacuo to give a yellow oil. This oil is chromatographed over silica gel by eluting with 2% methanol-98% chloroformmixtures to afford 8-chloro-1-[(diethylamino)methyl]-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(aminomethyl)-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | 4.3 mmole, 1.42 g | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)CN)C3=CC=CC=C3)C1 | C18H15ClN4
reactant | acetaldehyde | 1.5 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 550 mg | C(#N)[BH3-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-1-[(diethylamino)methyl]-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)CN(CC)CC)C3=CC=CC=C3)C1 | C22H23ClN4
